US08466089B2
3-(2-Methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoic acid (500 mg) was dissolved in chloroform (20 mL), and oxalyl chloride (500 mg) and a catalytic amount of DMF were added, followed by stirring at room temperature for 3 hours. Under reduced pressure, the solvent and an excess reagent were distilled off to obtain 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoyl chloride (520 mg) as an oily product.

reactant | 3-(2-Methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoic acid | 500 mg | COCCOC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C12H16O6S
reactant | oxalyl chloride | 500 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoyl chloride | 520 mg | COCCOC=1C(=C(C(=O)Cl)C=CC1S(=O)(=O)C)C | C12H15ClO5S
